US06180622B2
Potassium-t-butoxide (1.95 g) is added to a solution of 4.09 g of (imidazo[5,1-b]thiazol-3-yl)methyltriphenylphosphonium chloride hydrochloride in 15 ml of THF and 15 ml of DMSO under ice cooling. The mixture is stirred for 2 hr, a solution of 2.9 g of (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-formylpyrrolidine in 15 ml of THF is added thereto, and the mixture is stirred under ice cooling for 2 hr. Ethyl acetate is added to the reaction mixture, the mixture is successively washed with dilute hydrochloric acid and saturated saline, and dried over magnesium sulfate. The solvent is removed by evaporation, the residue is dissolved in 80 ml of methanol, 3.5 ml of a 5 N aqueous hydrochloric acid solution is added to the solution, and the mixture is stirred at room temperature for 12 hr. The mixture is neutralized with a 5 N aqueous sodium hydroxide solution, dichloromethane is added thereto, and the mixture is successively washed with water and saturated saline and dried over magnesium sulfate. The solvent is removed by evaporation, and the residue is purified by column chromatography on silica gel to give 1.48 g of (3R,5S)-1-allyloxycarbonyl-3-hydroxy-5-[2-(imidazo[5,1-b]thiazol-3-yl)ethenyl]pyrrolidine.

reactant | Potassium-t-butoxide | 1.95 g | CC(C)([O-])C.[K+]
reactant | (imidazo[5,1-b]thiazol-3-yl)methyltriphenylphosphonium chloride hydrochloride | 4.09 g | Cl.[Cl-].S1C=2N(C(=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=NC2
reactant | (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-formylpyrrolidine | 2.9 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C=O)O[Si](C)(C)C(C)(C)C | C15H27NO4Si
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (3R,5S)-1-allyloxycarbonyl-3-hydroxy-5-[2-(imidazo[5,1-b]thiazol-3-yl)ethenyl]pyrrolidine | 1.48 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C=CC=1N2C(SC1)=CN=C2)O | C15H17N3O3S
